US07872014B2
To a solution of (5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)methanol (0.31 g, 1.1 mmol) and pyridine (0.15 mL 1.9 mmol) in tetrahydrofuran (10 mL) at 0° C. was added thionyl chloride (0.093 mL, 1.3 mmol) and the reaction mixture warmed to room temperature and stirred for one hour. Then it was poured into water (20 mL) and extracted with ethyl acetate (3×20 mL). The combined extract was washed with water and brine (20 mL each), dried over sodium sulfate, filtered and concentrated to give 1-(chloromethyl)-5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}benzene (0.33 g, 1.1 mmol, 100% yield), 1H NMR (400 MHz, CDCl3): 6.76-6.26 (m, 2H), 4.69 (s, 2H), 4.22-4.13 (m, 4H), 3.86-3.78 (m, 4H), 3.46 (s, 6H).

reactant | (5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)methanol | 1.1 mmol, 0.31 g | FC=1C=C(C(=C(C1)CO)OCCOC)OCCOC | C13H19FO5
reactant | pyridine | 1.9 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 1.3 mmol, 0.093 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(chloromethyl)-5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}benzene | 1.1 mmol, 0.33 g, 100% yield | ClCC1=C(C(=CC(=C1)F)OCCOC)OCCOC | C13H18ClFO4
